US04829099
Tetraethylene glycol (58.2 g, 0.3 mole) was treated with m-nitrobenzoyl chloride, following the general procedure described in Example 1, Part A. After the usual work-up, the product was crystallized from ethyl acetate/hexanes at -20° C. for 3 days to give bis-(3-nitrobenzoyl)-tetraethylene glycol (110 g) as a pale yellow solid, m.p. 38°-40° C.

reactant | Tetraethylene glycol | 0.3 mole, 58.2 g | C(COCCOCCOCCO)O | C8H18O5
reactant | m-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | bis-(3-nitrobenzoyl)-tetraethylene glycol | 110 g | [N+](=O)([O-])C=1C=C(C(=O)C(COCCOCCOCCO)(C(C2=CC(=CC=C2)[N+](=O)[O-])=O)O)C=CC1 | C22H24N2O11
